US08114893B2
Synthesis of 4-nitrophenyl benzo[d]thiazol-2-ylcarbamate (19)
The title compound 4-nitrophenyl benzo[d]thiazol-2-ylcarbamate (19) was prepared by the following procedure: To 2-aminobenzothiazole (5.0 g, 30 mmol) was added DCM (36 mL) and the reaction mixture was stirred at 0° C. for 15 minutes. Then, p-nitrophenyl chloroformate (6.64 g, 33 mmol) in DCM (60 mL) was added, followed by pyridine (2.66 mL, 33 mmol) in DCM (36 mL). The reaction mixture was stirred and allowed to warm to rt overnight. The reaction mixture was filtered, washed with DCM, and dried to provide 9.22 g (90%) of the desired product 4-nitrophenyl benzo[d]thiazol-2-ylcarbamate (19): LC/MS (APCI): m/z 316.0 (M+H).

reactant | 2-aminobenzothiazole | 30 mmol, 5.0 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | p-nitrophenyl chloroformate | 33 mmol, 6.64 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 33 mmol, 2.66 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 36 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 36 mL | C(Cl)Cl | CH2Cl2
product | 4-nitrophenyl benzo[d]thiazol-2-ylcarbamate | 9.22 g, 90% | S1C(=NC2=C1C=CC=C2)NC(OC2=CC=C(C=C2)[N+](=O)[O-])=O | C14H9N3O4S
